US03992371
4-Hydroxy-1,5-naphthyridine-3-carboxylic acid was added to a mixture of 0.73 g of dimethylformamide and 1.56 g of thionyl chloride in benzene withstirring, and stirring was continued at 40° - 85° C for 3 hours. The precipitated crystals were collected by filtration, washed withbenzene and dried under reduced pressure to give 2.37 g of 4-hydroxy-1,5-naphthyridine-3-carbonyl chloride hydrochloride. Purity (determined by NMR analysis after esterification), 96.3 %.

reactant | 4-Hydroxy-1,5-naphthyridine-3-carboxylic acid | OC1=C(C=NC2=CC=CN=C12)C(=O)O | C9H6N2O3
reactant | dimethylformamide | 0.73 g | CN(C=O)C | C3H7NO
reactant | thionyl chloride | 1.56 g | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 4-hydroxy-1,5-naphthyridine-3-carbonyl chloride hydrochloride | 2.37 g | Cl.OC1=C(C=NC2=CC=CN=C12)C(=O)Cl | InChI=1S/C9H5ClN2O2.ClH/c10-9(14)5-4-12-6-2-1-3-11-7(6)8(5)13;/h1-4H,(H,12,13);1H
